US08222263B2
To a round bottomed flask containing 2,4-dichloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine (1.85 g, 10.5 mmol) was added phenylboronic acid (1.43 g, 11.8 mmol), dichloro-((bis-diphenylphosphino)ferrocenyl)-palladium (II) (complex with methylene chloride), (800 mg, 0.98 mmol), triethylamine (4.1 mL, 29 mmol), dimethylformamide (30 mL), and water (2 mL). The reaction mixture was heated to 80° C. for 14 h, then cooled to rt and diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The material was purified by flash column chromatography to afford 2-chloro-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (1.25 g, 52%) as an off-white solid.

reactant | 2,4-dichloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 10.5 mmol, 1.85 g | ClC=1N=C(C2=C(N1)CCC2)Cl | C7H6Cl2N2
reactant | phenylboronic acid | 11.8 mmol, 1.43 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 29 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
product | 2-chloro-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.25 g, 52% | ClC=1N=C(C2=C(N1)CCC2)C2=CC=CC=C2 | C13H11ClN2
